US04335127
A mixture of 12 parts of ethyl 4-(3-methylbenzoyl)-1-piperidinecarboxylate and 225 parts of a hydrobromic acid solution 48% in water is stirred and refluxed for 3 hours. The reaction mixture is evaporated and the residue is crystallized from 2-propanol, yielding 7.5 parts of (3-methylphenyl) (4-piperidinyl)methanone hydrobromide.

reactant | ethyl 4-(3-methylbenzoyl)-1-piperidinecarboxylate | CC=1C=C(C(=O)C2CCN(CC2)C(=O)OCC)C=CC1 | C16H21NO3
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | (3-methylphenyl) (4-piperidinyl)methanone hydrobromide | Br.CC=1C=C(C=CC1)C(=O)C1CCNCC1 | InChI=1S/C13H17NO.BrH/c1-10-3-2-4-12(9-10)13(15)11-5-7-14-8-6-11;/h2-4,9,11,14H,5-8H2,1H3;1H
